US07618985B2
5-Bromo-1-chloro-6-hydroxyisoquinoline (108 mg, 0.42 mmol) was mixed with hydrochloric acid (5M, 2 ml) and heated under microwave conditions at 150° C. for 40 minutes. The cooled residue was mixed with methanol and azeotroped to dryness under reduced pressure to give 5-bromo-6-hydroxy-2H-isoquinolin-1-one El-MS: m/z=240 and 242[M+H]+.

reactant | 5-Bromo-1-chloro-6-hydroxyisoquinoline | 0.42 mmol, 108 mg | BrC1=C2C=CN=C(C2=CC=C1O)Cl | C9H5BrClNO
reactant | hydrochloric acid | 5M, 2 ml | Cl | ClH
reactant | methanol | CO | CH4O
product | 5-bromo-6-hydroxy-2H-isoquinolin-1-one | BrC1=C2C=CNC(C2=CC=C1O)=O | C9H6BrNO2
